US04034046
(4-hydroxyphenyl)n-tetradecylmethyl sulfonium chloride was prepared using as reactants n-tetradecylmethyl sulfide, chlorine and phenol according to the general procedure described in French patent 1,377,019. The product has a melting point of 136.2° - 137.2° C. and the structure was confirmed by elemental and NMR analyses.

reactant | n-tetradecylmethyl sulfide | C(CCCCCCCCCCCCC)SC | C15H32S
reactant | chlorine | ClCl | Cl2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | (4-hydroxyphenyl)n-tetradecylmethyl sulfonium chloride | [Cl-].OC1=CC=C(C=C1)CCCCCCCCCCCCCC[SH+]C | InChI=1S/C21H36OS.ClH/c1-23-19-13-11-9-7-5-3-2-4-6-8-10-12-14-20-15-17-21(22)18-16-20;/h15-18,22H,2-14,19H2,1H3;1H
